US07915424B2
3-Chloro-5-(4-fluoro-3-nitrophenylethynyl)-pyridine
Add bis(triphenylphosphine)palladium (II) dichloride (150 mg, 0.22 mmol), copper (I) iodide (83 mg, 0.44 mmol), and 3-chloro-5-ethynylpyridine, (prepared as described in PREPARATION 27), (600 mg, 4.4 mmol) to a solution of 1-fluoro-4-iodo-2-nitrobenzene, (prepared as described in PREPARATION 46), (1.22 g, 4.6 mmol) in triethylamine (6.6 mL, 65.3 mmol). Stir at 60° C. for 18 h then concentrate. Purify by silica gel chromatography, eluting with a gradient of 100:0 to 90:10 dichloromethane:ethyl acetate, followed by a second silica gel chromatography, eluting with 95:5 to 60:40 hexanes:ethyl acetate, to give the title compound as a light yellow solid (650 mg, 54%).

reactant | 3-chloro-5-ethynylpyridine | 4.4 mmol, 600 mg | ClC=1C=NC=C(C1)C#C | C7H4ClN
reactant | 1-fluoro-4-iodo-2-nitrobenzene | 4.6 mmol, 1.22 g | FC1=C(C=C(C=C1)I)[N+](=O)[O-] | C6H3FINO2
reactant | triethylamine | 65.3 mmol, 6.6 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium | 0.22 mmol, 150 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.44 mmol, 83 mg | [Cu]I
product | 3-Chloro-5-(4-fluoro-3-nitrophenylethynyl)-pyridine | 650 mg, 54% | ClC=1C=NC=C(C1)C#CC1=CC(=C(C=C1)F)[N+](=O)[O-] | C13H6ClFN2O2
